US07816371B2
c. (R)-N-Cyclopropyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide
(R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)propanoic acid (3 g, 0.01 mol), 1-hydroxybenzotriazole hydrate (2.1 g, 0.014 mol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.6 g, 0.014 mol), N,N-diisopropylethylamine (4 g, 0.03 mol) were stirred in methylene chloride (100 mL, 2 mol) at room temperature for 16 hours. The reaction mixture was diluted with CH2Cl2 (200 mL), washed with sat. NaHCO3, dried over MgSO4, filtered, purified via flash chromatography (40 g of silica gel, 0-50% EtOAc/Hexane) and gave a yellow solid. MS m/z 302.3 (M+H)+.

reactant | (R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)propanoic acid | 0.01 mol, 3 g | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)O)C | C12H10N2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.014 mol, 2.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.014 mol, 2.6 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.03 mol, 4 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mol, 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-Cyclopropyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide | C1(CC1)NC([C@@H](C)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)=O | C15H15N3O4
